US07714010B2
b) 5-(4-Methoxy-benzoylamino)-3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-indole-1-carboxylic acid benzylamide
To a solution of 5-(4-methoxy-benzoylamino)-3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-indole-1-carboxylic acid 4-nitro-phenyl ester (54 mg) in CH2Cl2 (10 ml) is added benzyl amine (44 μl) at RT. The reaction mixture is stirred at RT for 20 h. After an aqueous work-up and concentration in vacuo, the residue is dissolved in acetic acid (3 ml) and iron (60 mg; powder) is added. The mixture is stirred in a microwave apparatus at 150° C. for 900 s. After filtration and evaporation of the solvent the crude material is purified by preparative RP-HPLC.

reactant | 5-(4-methoxy-benzoylamino)-3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-indole-1-carboxylic acid 4-nitro-phenyl ester | 54 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)N1C(C(C2=CC(=C(C=C12)[N+](=O)[O-])NC(C1=CC=C(C=C1)OC)=O)(C)C)=O | C25H20N4O9
reactant | benzyl amine | 44 μl | C(C1=CC=CC=C1)N | C7H9N
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 5-(4-Methoxy-benzoylamino)-3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-indole-1-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)N1C(C(C2=CC(=C(C=C12)[N+](=O)[O-])NC(C1=CC=C(C=C1)OC)=O)(C)C)=O | C26H24N4O6
